US03971789
4-Chloro-7-trifluoromethylquinoline and 2-amino benzoic acid are refluxed in dilute hydrochloric acid for 1 hour to give 2-(7-trifluoromethyl-4-quinolylamino)benzoic acid.

reactant | 4-Chloro-7-trifluoromethylquinoline | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | 2-amino benzoic acid | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
solvent | hydrochloric acid | Cl | ClH
product | 2-(7-trifluoromethyl-4-quinolylamino)benzoic acid | FC(C1=CC=C2C(=CC=NC2=C1)NC1=C(C(=O)O)C=CC=C1)(F)F | C17H11F3N2O2
